US07846929B2
3-(2-Chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)benzoic acid (49 mg) was reacted with (S)-(+)-1-amino-2-propanol via General Procedure B to yield 3-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)-N-((S)-2-hydroxypropyl)benzamide. 3-(2-Chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)-N-((S)-2-hydroxypropyl)benzamide (56 mg) was coupled to 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole 7 via General Procedure A to yield 24.8 mg of 336. MS (Q1) 515.2 (M)+

reactant | 3-(2-Chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)benzoic acid | 49 mg | ClC=1N=C(C2=C(N1)C=C(S2)C=2C=C(C(=O)O)C=CC2)N2CCOCC2 | C17H14ClN3O3S
reactant | (S)-(+)-1-amino-2-propanol | NC[C@H](C)O | C3H9NO
product | 3-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)-N-((S)-2-hydroxypropyl)benzamide | ClC=1N=C(C2=C(N1)C=C(S2)C=2C=C(C(=O)NC[C@H](C)O)C=CC2)N2CCOCC2 | C20H21ClN4O3S
